US07977371B2
2-Aminocarbonylamino-5-[4-[N-benzyl-N-(2-hydroxyethyl)aminomethyl]phenyl]pyrrole-3-carboxamide (Compound No. 16-1)
Acetic acid (30 μl N-benzylethanolamine (79 μL, 0.55 mmol) and sodium cyanoborohydride (35 mg, 0.55 mmol) were added to a solution of 2-aminocarbonylamino-5-(4-formylphenyl)pyrrole-3-carboxamide (Compound No. 14-1, 50 mg, 0.18 mmol) in N,N-dimethylformamide (3 mL) and the mixture was stirred overnight at room temperature. Saturated aqueous sodium hydrogencarbonate (10 mL) and water (10 mL) were added to the reaction solution, extracted with ethyl acetate (20 mL). The organic layer was washed with brine (10 mL), dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, the obtained residue was purified by silica gel column chromatography to give the target compound (26 mg) as a colorless solid (Yield 36%)

reactant | N-benzylethanolamine | 0.55 mmol, 30 μl | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | sodium cyanoborohydride | 0.55 mmol, 35 mg | C(#N)[BH3-].[Na+]
reactant | 2-aminocarbonylamino-5-(4-formylphenyl)pyrrole-3-carboxamide | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)C=O | C13H12N4O3
reactant | sodium hydrogencarbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | 2-Aminocarbonylamino-5-[4-[N-benzyl-N-(2-hydroxyethyl)aminomethyl]phenyl]pyrrole-3-carboxamide | 26 mg, Yield 36% | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)CN(CCO)CC1=CC=CC=C1 | C22H25N5O3
